US08735384B2
To a suspension of Pt/C (10%, 1.5 g, 0.77 mmol) in DCM (200 mL) and THF (50 mL) was added 5-bromo-4-fluoro-2-nitrobenzaldehyde (9.0 g, 36.3 mmol). The mixture was purged with H2 gas, and was stirred under an atmosphere of H2 gas at ambient temperature for 24 h. The reaction mixture was filtered through celite rinsing with DCM. The filtrate was concentrated and the residue was purified by column chromatography on silica gel (600 mL) eluting with 15% EtOAc/hexane to afford 2-amino-5-bromo-4-fluorobenzaldehyde.

reactant | 5-bromo-4-fluoro-2-nitrobenzaldehyde | 36.3 mmol, 9.0 g | BrC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])F | C7H3BrFNO3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pt/C | 0.77 mmol, 1.5 g | [Pt] | Pt
product | 2-amino-5-bromo-4-fluorobenzaldehyde | NC1=C(C=O)C=C(C(=C1)F)Br | C7H5BrFNO
